* source I-DECODER-001
M_M10         N36965 N33383 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_M4         N33489 N33383 N33383 N33383 CMOSP  
+ L=.5u  
+ W=5u         
R_R1         N33383 0  10Meg  
R_R2         N33383 0  10Meg  
R_R3         N33383 0  10Meg  
M_M7         N33879 N33383 N36965 N36965 CMOSN  
+ L=.5u  
+ W=.8u         
V_V1         N33383 0 5
M_M5         N33489 N33383 N33383 N33383 CMOSP  
+ L=.5u  
+ W=5u         
M_M1         N33489 N33383 N33539 N33539 CMOSN  
+ L=.5u  
+ W=.8u         
M_M2         N33539 N33383 N33557 N33557 CMOSN  
+ L=.5u  
+ W=.8u         
M_M6         N33557 N33383 N33879 N33879 CMOSN  
+ L=.5u  
+ W=.8u         
R_R4         N33383 0  10Meg  
R_R5         N33383 0  10Meg  
M_M3         N33489 N33383 N33383 N33383 CMOSP  
+ L=.5u  
+ W=5u         
M_M8         N33489 N33383 N33383 N33383 CMOSP  
+ L=.5u  
+ W=5u         
M_M9         N33489 N33383 N33383 N33383 CMOSP  
+ L=.5u  
+ W=5u         
